US07723331B2
c) 3-{3-[(3R)-1-Azabicyclo[2.2.2]oct-3-yloxy]benzyl}-6-(4-chlorophenyl)thieno[3,2-d]pyrimidin-4(3H)-one
Methyl 5-(4-chlorophenyl)-3-{[(1E)-(dimethylamino)methylene]amino}thiophene-2-carboxylate (177 mg, 0.548 mmol) and 1-{3-[(3R)-1-azabicyclo[2.2.2]oct-3-yloxy]phenyl}methanamine (140 mg, 0.603 mmol) were dissolved in MeOH (2 ml). The reaction was heated in a microwave at 120° C. for 30 minutes. The solvent was evaporated in vacuo. Purification by flash silica gel chromatography using a 40 g Biotage column with 100% EtOAc/MeOH/TEA 100:10:1 yielded the title compound as a white solid. Yield: 0.175 g (67%). 1H NMR (400 MHz, CDCl3) δ 8.09 (s, 1H), 7.56 (m, 2H), 7.40 (s, 1H), 7.37 (m, 2H), 7.22 (t, 1H, J=7.9 Hz), 6.88 (d, 1H, J=7.9 Hz), 6.86 (m, 1H), 6.75 (dd, 1H, J=8.1 Hz, J=2.1 Hz), 5.15 (s, 2H), 4.33 (m, 1H), 3.24 (m, 1H), 2.97-2.88 (m, 1H), 2.86-2.69 (m, 4H), 2.08 (m, 1H), 1.99-1.88 (m, 1H), 1.70 (m, 1H), 1.57-1.47 (m, 1H), 1.34 (m, 1H). 13C NMR (100 MHz, CDCl3) δ 158.3, 157.7, 157.1, 151.4, 148.2, 137.5, 135.7, 131.7, 130.4, 129.6, 127.8, 123.2, 121.0, 120.4, 115.8, 115.2, 73.6, 55.8, 49.5, 47.5, 46.8, 25.3, 24.6, 19.4. MS (ESI+) 478.00 (M+1H+).

reactant | Methyl 5-(4-chlorophenyl)-3-{[(1E)-(dimethylamino)methylene]amino}thiophene-2-carboxylate | 0.548 mmol, 177 mg | ClC1=CC=C(C=C1)C1=CC(=C(S1)C(=O)OC)/N=C/N(C)C | C15H15ClN2O2S
reactant | 1-{3-[(3R)-1-azabicyclo[2.2.2]oct-3-yloxy]phenyl}methanamine | 0.603 mmol, 140 mg | N12C[C@@H](C(CC1)CC2)OC=2C=C(C=CC2)CN | C14H20N2O
solvent | MeOH | 2 ml | CO | CH4O
product | 3-{3-[(3R)-1-Azabicyclo[2.2.2]oct-3-yloxy]benzyl}-6-(4-chlorophenyl)thieno[3,2-d]pyrimidin-4(3H)-one | N12C[C@@H](C(CC1)CC2)OC=2C=C(CN1C=NC3=C(C1=O)SC(=C3)C3=CC=C(C=C3)Cl)C=CC2 | C26H24ClN3O2S
